US07745438B2
(2R,3S,5S)-5-benzyloxymethyl-2-(2,2-dimethylpropoxy)-3-methyl-morpholine-4-carboxylic acid tert-butyl ester
Add N,N-diisopropylethylamine (0.41 g, 3.19 mmol) to (2R,3S,5S)-5-benzyloxymethyl-2-(2,2-dimethylpropoxy)-3-methylmorpholine (0.49 g, 1.59 mmol) and di-tert-butyl dicarbonate (1.04 g, 4.78 mmol) in dichloroethane (16 mL) at room temperature and heat to 70° C. for 12 hours. Cool to room temperature and concentrate. Dilute with ethyl acetate and wash with 1 N aqueous citric acid and saturated aqueous sodium chloride. Dry (magnesium sulfate), filter, concentrate and purify (silica gel chromatography, eluting with 0:100 to 20:80 ethyl acetate:hexanes) to give the desired compound as an oil.

reactant | N,N-diisopropylethylamine | 3.19 mmol, 0.41 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (2R,3S,5S)-5-benzyloxymethyl-2-(2,2-dimethylpropoxy)-3-methylmorpholine | 1.59 mmol, 0.49 g | C(C1=CC=CC=C1)OC[C@H]1CO[C@H]([C@@H](N1)C)OCC(C)(C)C | C18H29NO3
reactant | di-tert-butyl dicarbonate | 4.78 mmol, 1.04 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloroethane | 16 mL | ClC(C)Cl | C2H4Cl2
product | (2R,3S,5S)-5-benzyloxymethyl-2-(2,2-dimethylpropoxy)-3-methyl-morpholine-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H]([C@@H](OC[C@@H]1COCC1=CC=CC=C1)OCC(C)(C)C)C | C23H37NO5
